US07141596B2
Step 12. Synthesis of methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoate
Into a round-bottom flask was added methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxo-2-[2-(trimethylsilyl)ethoxy]methylisothiazolidin-5-yl)phenyl]-propanoate (165 mg, 0.252 mmol), dichloromethane (5 mL), and trifluoroacetic acid (2.5 mL). After stirring at room temperature for 30 minutes, the solvent was removed. The resulting residue was used in the next step without purification.

reactant | methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxo-2-[2-(trimethylsilyl)ethoxy]methylisothiazolidin-5-yl)phenyl]-propanoate | 0.252 mmol, 165 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(N(S1(=O)=O)COCC[Si](C)(C)C)=O)Br | C27H35BrN2O8SSi
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br | C21H21BrN2O7S
